* D:\github-stuff\STM32-Li-ion-charger-dischager-LCD\spice_simulation\Internal_Resistance_AC_Method.asc
R2 N008 N007 5
C1 N009 N008 1µ
C2 N010 N009 1µ
V1 N007 0 SINE(0 1 1k)
V2 N009 0 4 Rser=0.5
XU1 0 N001 15V 0 N003 LT1001
D1 N003 N002 D
D2 N001 N003 D
R1 N002 N001 10k
V3 15V 0 15
V4 N004 0 SINE(0 1 1k)
R3 N002 0 10k
R4 N001 N004 10k
XU2 15V N005 15V 0 N006 LT1001
D3 N006 N005 D
.model D D
.lib C:\Users\robert_alfred.kecs\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 100m 0 1u
.lib LTC.lib
.backanno
.end
