* D:\github-stuff\STM32-Li-ion-charger-dischager-LCD\spice_simulation\Internal_Resistance_AC_Method.asc
R2 N011 N010 5
C1 N012 N011 1µ
C2 N013 N012 1µ
V1 N010 0 SINE(0 1 1k)
V2 N012 0 4 Rser=0.5
XU1 0 N001 15V 0 N003 LT1001
D1 N002 N003 1N5817
D2 N003 N001 1N5817
R1 N002 N001 10k
V3 15V 0 15
V4 N004 0 SINE(0 1 1k)
R3 N009 0 50k
R4 N001 N004 10k
XU2 15V N007 15V 0 N008 LT1001
D3 N008 N007 1N5817
XU3 0 N005 15V 0 N006 LT1001
R5 N005 N002 5k
R6 N006 N005 10k
R7 N005 N004 10k
C3 N009 0 220µ
R8 N009 N006 1
.model D D
.lib C:\Users\robert_alfred.kecs\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 100m 0 1u
.lib LTC.lib
.backanno
.end
